US05099019
16α-Methyl-17β-(1-oxo-[4-tetrahydropyranyloxy]butyl)-androsta-5,9(11)-dien-3-one 3-ethylene ketal, step (D), is dissolved in acetone (90 ml) and hydrochloric acid (1 N, 10 ml) and allowed to stand at 20°-25° for several hours. Following addition of potassium bicarbonate (1 N, 25 ml), the mixture is concentrated and extracted with ethyl acetate. The concentrate is chromatographed on silica gel eluting with acetone/methylene chloride. The appropriate fractions are pooled and concentrated to give 16α-methyl-17β-(1-oxo-[4-hydroxy]butyl)androsta-4,9(11)-dien-3-one.

reactant | 16α-Methyl-17β-(1-oxo-[4-tetrahydropyranyloxy]butyl)-androsta-5,9(11)-dien-3-one 3-ethylene ketal | C1COC2(CC3=CC[C@H]4[C@@H]5C[C@H]([C@@H]([C@@]5(C)CC=C4[C@]3(CC2)C)C(CCCOC2CCOCC2)=O)C)O1 | C31H46O5
reactant | hydrochloric acid | 1 N, 10 ml | Cl | ClH
reactant | potassium bicarbonate | 1 N, 25 ml | C([O-])(O)=O.[K+]
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | 16α-methyl-17β-(1-oxo-[4-hydroxy]butyl)androsta-4,9(11)-dien-3-one | C[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@]3(C)C1=CC2)=O)C(CCCO)=O | C24H34O3
